US04188397
2,2'-[1,2-Ethanediylbis(thio)]bis[4,5-bis(4-bromophenyl)-1H-imidazole]
2,2'-[1,2-Ethanediylbis(thio)]bis[4,5-bis(4-bromophenyl)-1H-imidazole] dihydrobromide (ca. 65 g) was slurried with warm ethanol (150 ml) and 5% aqueous sodium carbonate (500 ml) was added. The mixture was filtered and the precipitate was washed with water then ethanol, air-dried and recrystallized to give the title compound.

reactant | 2,2'-[1,2-Ethanediylbis(thio)]bis[4,5-bis(4-bromophenyl)-1H-imidazole] dihydrobromide | ca. 65 g | Br.Br.C(CSC=1NC(=C(N1)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)SC=1NC(=C(N1)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br
reactant | sodium carbonate | 500 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,2'-[1,2-Ethanediylbis(thio)]bis[4,5-bis(4-bromophenyl)-1H-imidazole] | C(CSC=1NC(=C(N1)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)SC=1NC(=C(N1)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C32H22Br4N4S2
